US07847106B2
To a solution of 8.19 g of crude (2S,4R)-2-((1R,2S)-1-ethoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester and 60 mL of toluene was added 4.25 g CDI (26.2 mmol) Sin portions at a temperature of 22-25° C. The reaction mixture was stirred for 1.5 h at RT. Then 3.66 g (21.0 mmol) of 4-fluoroisoindoline hydrochloride was added in portions followed by 3.1 mL of TEA. The resulting suspension was heated to 52° C. bath temperature. After stirring for 3 h at this temperature the reaction mixture was cooled with an ice bath and 70 mL of aqueous HCl (1M) were added. The mixture was extracted with 50 mL of toluene. The separated aqueous layer was extracted twice with 50 mL toluene. The combined toluene extracts were washed with 30 mL of water and 30 mL of an aqueous solution of Na2CO3 (5 wt %). The toluene extract was dried (Na2SO4), filtered, and the solvent was completely removed. 9.21 g of 4-fluoro-1,3-dihydro-isoindole-2-carboxylic acid (3R,5S)-1-tert-butoxycarbonyl-5-((1R,2S)-1-ethoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-pyrrolidin-3-yl ester was obtained as a grey solid, which was used in the next step without further purification.

reactant | (2S,4R)-2-((1R,2S)-1-ethoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 8.19 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(N[C@]1([C@@H](C1)C=C)C(=O)OCC)=O | C18H28N2O6
reactant | CDI | 26.2 mmol, 4.25 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-fluoroisoindoline hydrochloride | 21.0 mmol, 3.66 g | Cl.FC1=C2CNCC2=CC=C1
reactant | HCl | 1M, 70 mL | Cl | ClH
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4-fluoro-1,3-dihydro-isoindole-2-carboxylic acid (3R,5S)-1-tert-butoxycarbonyl-5-((1R,2S)-1-ethoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-pyrrolidin-3-yl ester | 9.21 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@H]1C(N[C@]1([C@@H](C1)C=C)C(=O)OCC)=O)OC(=O)N1CC2=CC=CC(=C2C1)F | C27H34FN3O7
